US05578627
To a solution of 0.2 g of 3-[2-tert-butoxycarbonylamino-3-(1-dimethylcarbamoyl-4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole in 2 ml of methanol is added 1.2 ml of a 2-propanol solution (6.5M) of hydrogen chloride at room temperature and they are subjected to reaction at the same temperature for ten hours, after which the solvent is removed by distillation under reduced pressure. Diisopropyl ether is added to the residue obtained and the crystals precipitated are collected by filtration, to obtain 0.1 g of pale brown, crystalline 3-[2-amino-3-(1-dimethylcarbamoyl-4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 167.0°-169.5° C. (decomp.).

reactant | 3-[2-tert-butoxycarbonylamino-3-(1-dimethylcarbamoyl-4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | 0.2 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC=2N=CN(C2)C(N(C)C)=O | C21H26ClN5O5
reactant | 2-propanol | 6.5M, 1.2 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-[2-amino-3-(1-dimethylcarbamoyl-4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CC=2N=CN(C2)C(N(C)C)=O | InChI=1S/C16H18ClN5O3.ClH/c1-21(2)16(23)22-7-12(19-9-22)6-11(18)8-24-15-13-5-10(17)3-4-14(13)25-20-15;/h3-5,7,9,11H,6,8,18H2,1-2H3;1H
